US07723330B2
Step B: Preparation of methyl 1-(benzo[d]oxazol-2-yl)cyclopropanecarboxylate:
To a stirred suspension of methyl 1-((2-hydroxyphenyl)carbamoyl)cyclopropanecarboxylate (0.147 g, 0.62 mmol) in 2.5 mL THF at room temperature under nitrogen was added triphenylphosphine (0.361 g, 1.375 mmol) followed by DIAD (0.2663 ml, 1.375 mmol). After 2 hours, the reaction mixture was loaded directly onto a Biotage 40S column in THF and was eluted with 9/1 hexanes/EtOAc to provide the desired product as a yellow oil (132 mg, 97%).

reactant | methyl 1-((2-hydroxyphenyl)carbamoyl)cyclopropanecarboxylate | 0.62 mmol, 0.147 g | OC1=C(C=CC=C1)NC(=O)C1(CC1)C(=O)OC | C12H13NO4
reactant | triphenylphosphine | 1.375 mmol, 0.361 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.375 mmol, 0.2663 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | methyl 1-(benzo[d]oxazol-2-yl)cyclopropanecarboxylate | 132 mg, 97% | O1C(=NC2=C1C=CC=C2)C2(CC2)C(=O)OC | C12H11NO3
